US08022222B2
A 100 mL round-bottomed flask was charged with 3-(2-(4-methylthiazol-2-ylamino)pyridin-4-ylthio)benzoic acid (0.100 g, 0.2912 mmol) and THF (30 mL) and cooled to −5° C. Triethylamine (0.08840 g, 0.8736 mmol) and ethyl carbonochloridate (0.02784 mL, 0.2912 mmol) were added successively. The reaction mixture was stirred at −5° C. for 30 minutes. N1,N1-dimethylethane-1,2-diamine (0.07701 g, 0.8736 mmol) was added and stirred at −5° C. for 30 minutes and room temperature for 1 hour. An aqueous workup was done, the organic layer was dried and concentrated, and the residue was purified by silica gel chromatography to give the free base. The free base was dissolved in DCM, and 2M HCl was added. The solution was concentrated to provide N-(2-(dimethylamino)ethyl)-3-(2-(4-methylthiazol-2-ylamino)pyridin-4-ylthio)benzamide dihydrochloride (0.060 g, 42.36% yield). 1H NMR (d6-DMSO) δ 11.34 (bs, 1H), 9.97 (bs, 1H), 8.94 (t, 1H), 8.13 (m, 2H), 8.07 (d, 1H), 7.79 (d, 1H), 7.67 (t, 1H), 6.80 (s, 1H), 6.66 (s, 1H), 6.58 (s, 1H), 3.63 (m, 2H), 2.26 (m, 2H), 2.82 (d, 6H), 2.21 (s, 3H); Mass spectrum (apci) m/z=414.0 (M+H-2HCl).

reactant | 3-(2-(4-methylthiazol-2-ylamino)pyridin-4-ylthio)benzoic acid | 0.2912 mmol, 0.100 g | CC=1N=C(SC1)NC1=NC=CC(=C1)SC=1C=C(C(=O)O)C=CC1 | C16H13N3O2S2
reactant | Triethylamine | 0.8736 mmol, 0.08840 g | C(C)N(CC)CC | C6H15N
reactant | ethyl carbonochloridate | 0.2912 mmol, 0.02784 mL | C(OCC)(=O)Cl | C3H5ClO2
reactant | N1,N1-dimethylethane-1,2-diamine | 0.8736 mmol, 0.07701 g | CN(CCN)C | C4H12N2
reactant | HCl | 2M | Cl | ClH
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | N-(2-(dimethylamino)ethyl)-3-(2-(4-methylthiazol-2-ylamino)pyridin-4-ylthio)benzamide dihydrochloride | 0.060 g, 42.36% yield | Cl.Cl.CN(CCNC(C1=CC(=CC=C1)SC1=CC(=NC=C1)NC=1SC=C(N1)C)=O)C | InChI=1S/C20H23N5OS2.2ClH/c1-14-13-27-20(23-14)24-18-12-17(7-8-21-18)28-16-6-4-5-15(11-16)19(26)22-9-10-25(2)3;;/h4-8,11-13H,9-10H2,1-3H3,(H,22,26)(H,21,23,24);2*1H
